US04062965
a. Preparation of 1,3-di-n-octyl-2-ethyl-imidazole bromide
0.6 mole of 1-n-octyl-2-ethylimidazole is dissolved in 250 ml of i-propanol and 0.66 mole of n-octyl bromide are boiled with reflux for 5 hours. The alcohol then is separated and the remaining residue is washed with ether.

reactant | 1-n-octyl-2-ethylimidazole | 0.6 mole | C(CCCCCCC)N1C(=NC=C1)CC | C13H24N2
reactant | n-octyl bromide | 0.66 mole | C(CCCCCCC)Br | C8H17Br
solvent | i-propanol | 250 ml | C(C)(C)O | C3H8O
product | 1,3-di-n-octyl-2-ethyl-imidazole bromide | [Br-].C(CCCCCCC)N1C(N(C=C1)CCCCCCCC)CC | InChI=1S/C21H42N2.BrH/c1-4-7-9-11-13-15-17-22-19-20-23(21(22)6-3)18-16-14-12-10-8-5-2;/h19-21H,4-18H2,1-3H3;1H/p-1
